US08334301B2
1-phenyl-5-(phenylamino)-1H-pyrazole-3-carbaldehyde
[1-Phenyl-5-(phenylamino)-1H-pyrazol-3-yl]methanol (318 mg) and triethylamine (1 mL) were dissolved in dimethyl sulfoxide (5 mL), and sulfur trioxide•pyridine complex (535 mg) was added at room temperature. After stirring at room temperature for 18 hr, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=7:1→3:1) to give the title compound as a pale-yellow powder (yield 238 mg, yield 81%).

reactant | [1-Phenyl-5-(phenylamino)-1H-pyrazol-3-yl]methanol | 318 mg | C1(=CC=CC=C1)N1N=C(C=C1NC1=CC=CC=C1)CO | C16H15N3O
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 1-phenyl-5-(phenylamino)-1H-pyrazole-3-carbaldehyde | yield 238 mg, yield 81% | C1(=CC=CC=C1)N1N=C(C=C1NC1=CC=CC=C1)C=O | C16H13N3O
